Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Gluten
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w chronic pancreatitis, celiac, questionable history of 
Crohn's disease presents with abdominal pain and weight loss. 
For last week patient has had sharp and crampy LUQ and 
epigastric pain without radiation. It is constant, not 
associated with food, not exertional or a/w SOB/diaphoresis. He 
has chronic loose stools x a few months. He had some labs done 
and found he was hyperglycemic, so was started on metformin, 
which made the pain worse. He has also had a 20lb weight loss 
over the last several months which he attributes to stress and 
anorexia (multiple social stressors). No significant change in 
his diet other than less food. He tries to minimize his gluten 
intake but this has been a challenge in the past and more 
recently. 

With all of this, he saw Dr. ___ on day of admission who was 
concerned for possible pancreatic cancer. He had a CT of the 
pancreas done (see below). There was also a plan for an EGD as 
an outpatient to rule out PUD. Because his pain worsened 
significantly today he presented to the ED and given severity of 
pain and inability to be controlled with iv morphine he was 
admitted.

In the ED, labs unremarkable, including normal lipase.

Pt denies CP/SOB/cough/rash/dysuria/joint pains, including no 
hip pain. He has had a lot of stressors lately and on 
questioning does say he thinks he might be depressed. Denies 
SI/HI.
Recently started pancrealipase. Tried to quit smoking with 
Wellbutrin of late, recently stopped, but otherwise no new meds. 


10 pt ROS otherwise negative.

 
Past Medical History:
chronic pancreatitis
celiac sprue, variable adherence to gluten free diet
? Crohns disease--noted on colonic resection, but diagnosis is 
apparently in doubt
diverticulitis and bowel resection about ___ years ago
bronchiectasis
 
Social History:
___
Family History:
brother with MI
mother with sudden death ? cardiac at ___
mom with IBS
 
Physical Exam:
Admission Exam
97.5 134/74 66 16 99%RA
pleasant, NAD, in bed
NCAT, MMM
RRR
CTAB
minimally ttp LUQ, negative ___
wwp, neg edema
A&Ox3, ___ BUE/BLE, sensation intact LT
no rash
no foley

Discharge Exam:
VSS, afebrile
Gen: well appearing male, resting in bed, NAD
HEENT: NCAT, dry MM
Heart: RRR, no m/r/g
Lungs: bibasilar crackles, no rales or rhonchi
Abdomen: Soft, NT/ND, +BS, no rebound or guarding
Extremities: WWP, 2+ pulses, no edema
Neuro: grossly normal
GU: no foley

 
Pertinent Results:
___ 08:13PM   LACTATE-1.2
___ 08:06PM   GLUCOSE-160* UREA N-18 CREAT-0.8 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
___ 08:06PM   CALCIUM-9.5 PHOSPHATE-3.2 MAGNESIUM-2.1
___ 08:06PM   WBC-11.4* RBC-5.35 HGB-15.8 HCT-45.6 MCV-85 
MCH-29.5 MCHC-34.6 RDW-12.0 RDWSD-36.5
___ 08:06PM   NEUTS-69.7 ___ MONOS-5.8 EOS-0.7* 
BASOS-0.5 IM ___ AbsNeut-7.95* AbsLymp-2.62 AbsMono-0.66 
AbsEos-0.08 AbsBaso-0.06
___ 05:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 05:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-300 KETONE-10 BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-NEG
___ 05:00PM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 08:30AM   ALT(SGPT)-63* AST(SGOT)-38 ALK PHOS-97 TOT 
BILI-0.3
___ 08:30AM   LIPASE-17
___ 08:30AM   ALBUMIN-4.8 CALCIUM-9.6 MAGNESIUM-2.2 IRON-69
___ 08:30AM   calTIBC-394 VIT B12-725 FOLATE-8.9 
FERRITIN-374 TRF-303
___ 08:30AM   TRIGLYCER-161*
___ 08:30AM   WBC-10.4* RBC-5.60 HGB-16.7 HCT-50.0 MCV-89 
MCH-29.8 MCHC-33.4 RDW-11.9 RDWSD-39.0

EKG: NSR, nl axis, nl intervals, QTc 398, no ST/T changes

KUB: unremarkable

CT PANCREAS:
IMPRESSION: 
    
1. Atrophic pancreas with chronically dilated main pancreatic 
duct and coarse 
calcifications in keeping with history of chronic pancreatitis. 
No suspicious 
focal pancreatic lesion. Incidental note of pancreas divisum. 
2. No acute findings in the abdomen or pelvis. 
3. Bilateral femoral head avascular necrosis without articular 
collapse. 
4. Focal right lung base bronchiectasis with multiple areas of 
mucous 
impaction. 
5. Hepatic steatosis. 

___ 06:00AM BLOOD WBC-9.1 RBC-4.76 Hgb-14.2 Hct-41.3 MCV-87 
MCH-29.8 MCHC-34.4 RDW-11.9 RDWSD-37.8 Plt ___
___ 06:00AM BLOOD Glucose-138* UreaN-15 Creat-0.8 Na-139 
K-4.0 Cl-103 HCO3-29 AnGap-11
___ 06:00AM BLOOD ALT-45* AST-28 AlkPhos-77 TotBili-0.4
___ 06:00AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.7 Mg-1.8
___ 06:00AM BLOOD %HbA1c-10.1* eAG-243*
___ 06:00AM BLOOD %HbA1c-10.1* eAG-243*
___ 06:00AM BLOOD PREALBUMIN-PND
 
Brief Hospital Course:
___ w chronic pancreatitis, celiac disease with questionable 
adherence, ? Crohns p/w abdominal pain, weight loss.

# abdominal pain: Unclear etiology. Per patient, feels different 
than previous pancreatitis pain, lipase is nl but pancreas may 
be burnt out. PUD also a possibility. No clear IBD flare and CT 
abdomen negative for intraabdominal process.. UA unremarkable, 
making stones/pyelo less likely. Atypical for ACS, and troponin 
was negative.  Patient was started on PPI, given bowel rest, IVF 
and pain meds with improvement in his symptoms. GI was consulted 
who recommended EGD as scheduled as an outpatient.  Diet was 
advanced to regular with no recurrence of his abdominal pain. He 
was discharged home to f/u with his PCP.

# chronic pancreatitis: noted pancreas divisum. Possible 
pancreatic insufficiency including endocrine dysfunction as 
manifested with his new DM.  He was continued on pancrealipase 
while inpatient.  Can consider sweat chloride test as outpatient 
given pancreatitis/insufficiency and bronchiectasis.

# Weight loss: may be depression, but may actually be more 
related to DM, pancreatic insufficiency and possibly medication 
as pt was started on wellbutrin for depression but this was 
recently d/c due to his ongoing weight loss.  Patient reported  
improvement in the consistency of his stool since starting 
pancreatic supplementation. He was discharged home to continue 
pancreatic lipase, DM treatment and f/u with his outpatient 
providers. TSH was snl.  HIV and prealbumin were pending at time 
of discharge.  He was seen by nutrition for counseling prior to 
discharge as well.

# celiac: TTG ab and Vit D pending

# AVN of hips: asymptomatic, may be related to celiac, CTM as 
outpatient.  Vitamin D was found to be low and patient was 
started on oral supplementation.

# DM: metformin held given CT scan.  Timing of onset of 
abdominal pain not clearly correlated to starting metformin.  
Pt's A1c noted to be 10.1.  He was discharged off metformin for 
3 days given contrast given for CT scan and counseled to discuss 
alternative hypoglycemic with his PCP should his abdominal pain, 
cramping return.

# hepatic steatosis: f/u as outpatient

# bronchiectasis: known, asx

# ? depression: may be causing weight loss. No SI/HI. Social 
stressors. Pt will f/u with PCP discuss other options for 
treatment given that he did not tolerate wellbutrin

TRANSITIONAL ISSUES:
- TTG and prealbumin pending at time of discharge
- consider outpatient chloride sweat test given GI complaints 
and bronchiectasisi
- consider SSRI for depression
- consider alternative hypoglycemic if metformin causes 
worsening abdominal pain
- f/u with GI as scheduled for EGD

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. Pancrelipase 5000 2 CAP PO TID W/MEALS 

 
Discharge Medications:
1. Pancrelipase 5000 2 CAP PO TID W/MEALS 
2. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. Vitamin D  1000mg PO Daily

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain of unclear etiology

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, you were admitted to ___ with abdominal pain. Your 
tests for infection and CT scan were normal.  You will be 
discharged home to follow-up with your primary care physician 
and Dr. ___ as previously scheduled. Please see below for 
your future appointments. It was a pleasure caring for you and 
we wish you a speedy recovery!
 
Followup Instructions:
___